* Extracted by KLayout with GF180MCU LVS runset on : 10/07/2026 05:16

.SUBCKT strongarm
M$1 VDD VOUT2 VOUT1 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$2 \$20 CK VOUT2 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 VDD CK \$18 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$4 VDD CK VOUT2 VOUT2 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$5 VDD VOUT1 VOUT2 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$6 \$23 \$21 \$22 \$19 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$7 VOUT2 CK VSS VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$8 \$4 VIN2 VOUT2 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$9 VOUT2 VIN1 VOUT2 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$10 VOUT2 \$8 \$4 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$11 VOUT1 \$10 VOUT2 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$12 \$15 \$13 \$12 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
.ENDS strongarm
